US08420678B2
4-Hexyl-N-(1,3,4-thiadiazol-2-yl)benzenesulfonamide (154).
To a stirred solution of 2-amino-1,3,4-thiadiazole (2.0 g, 19.7 mmol) in pyridine (30 mL) under argon at −20° C. was added p-hexylbenzenesulfonyl chloride (5.48 g, 21 mmol) over 10 min. The reaction mixture was stirred at room temperature for 16 hours. Water (300 mL) was added to quench the reaction. The mixture was extracted with CH2Cl2 and the organic extracts washed with 2N HCl (2×150 mL), brine, dried over anhydrous Na2SO4, filtered, and concentrated. The residue was purified by flash chromatography on silica gel eluted with methanol:DCM 1:33 to give the product (3.72 g, 11.4 mmol, 58% yield) as a solid, mp 125-126° C.; 1H NMR (300 MHz, CDCl3) δ 0.88 (t, 3H, J=7 Hz), 1.28 (m, 6H), 1.58 (m, 2H), 2.63 (t, 2H, J=7 Hz), 7.27 (d, 2H, J=8 Hz), 7.83 (d, 2H, J=8 Hz), 8.24 (s, 1H); 13C NMR (75 MHz, CDCl3) 14.1, 22.6, 28.9, 31.1, 31.6, 35.9, 126.5, 129.0, 138.1, 142.6, 148.6, 167.4; MS (Q-TOF) Calcd for C14H20N3O2S2 326.0997, found 326.0931 (M+H)+; Calcd for C14H19N3NaO2S2 348.0816, found 348.0816 (M+Na)+.

reactant | 2-amino-1,3,4-thiadiazole | 19.7 mmol, 2.0 g | NC=1SC=NN1 | C2H3N3S
reactant | p-hexylbenzenesulfonyl chloride | 21 mmol, 5.48 g | C(CCCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H17ClO2S
reactant | Water | 300 mL | O | H2O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 4-Hexyl-N-(1,3,4-thiadiazol-2-yl)benzenesulfonamide | 11.4 mmol, 3.72 g, 58% yield | C(CCCCC)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=NN1 | C14H19N3O2S2
